US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-[2-(2-methylsulfanyl-ethyl)-2H-tetrazol-5-yl]-amine (270 mg) is dissolved in chloroform (3 ml), and thereto is added m-chloroperbenzoic acid (168 mg), and the mixture is stirred at room temperature for 3 hours. To the reaction solution is added a saturated aqueous sodium bicarbonate solution and the mixture is extracted with ethyl acetate, and the organic layer is washed with a brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=40:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-[2-(2-methanesulfinyl-ethyl)-2H-tetrazol-5-yl]-amine (157 mg). MS (m/z): 708 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-[2-(2-methylsulfanyl-ethyl)-2H-tetrazol-5-yl]-amine | 270 mg | FC(C=1C=C(CN(C=2N=NN(N2)CCSC)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C31H30F9N5OS
reactant | m-chloroperbenzoic acid | 168 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-[2-(2-methanesulfinyl-ethyl)-2H-tetrazol-5-yl]-amine | 157 mg | FC(C=1C=C(CN(C=2N=NN(N2)CCS(=O)C)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C31H30F9N5O2S
